US07678933B2
2-Bromo-N-cyclohexyl-4-methylaniline
In a 100-mL flask, N-cyclohexyl-4-methylaniline (2.00 g, 10.6 mmol) was dissolved in methylene chloride (20 mL) and a solution of bromine (Br2) (1.69 g, 10.6 mmol) dissolved in methylene chloride (16 ml) was injected at 0° C. for 30 minutes. Then, the solution was further stirred for 2 hours, and a 1 N aqueous KOH (20 mL) solution was added. The solution added with the aqueous solution was transferred to a separatory funnel and extracted from methylene chloride (40 mL) twice. Water was removed from the combined organic layer over MgSO4, and filtered with a glass filter. The rotary evaporator was used to remove the solvent, thereby obtaining a residue. The obtained residue was separated by column chromatography to obtain colorless oil (2.67 g, 94%).

reactant | N-cyclohexyl-4-methylaniline | 10.6 mmol, 2.00 g | C1(CCCCC1)NC1=CC=C(C=C1)C | C13H19N
reactant | bromine | 10.6 mmol, 1.69 g | BrBr | Br2
reactant | KOH | 1 N, 20 mL | [OH-].[K+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-cyclohexyl-4-methylaniline | 2.67 g, 94% | BrC1=C(NC2CCCCC2)C=CC(=C1)C | C13H18BrN
